US04166115
2-t-Butoxycarbonylmethoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid (syn isomer)(1 g.) and 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1 g.) were reacted according to similar manners to those of Examples 1 and 2 to give powder of 7-[2-t-butoxycarbonylmethoxyimino-2-(3-chloro-4-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.5 g.).

reactant | 2-t-Butoxycarbonylmethoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid | 1 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C1=CC(=C(C=C1)O)Cl | C14H16ClNO6
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-t-butoxycarbonylmethoxyimino-2-(3-chloro-4-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC(=C(C=C1)O)Cl | C24H26ClN7O8S2
